US06441017B1
Step F: (S)-3-Amino-1-[3′-(tert-butyldimethylsilyloxy)biphen-2-yl)-2-oxopyrrolidine
(S)-3-(tert-Butoxycarbonylamino)-1-[3′-(tert-butyldimethylsilyloxy) biphen-2-yl]-2-oxopyrrolidine, as described above in Step E, (888 mg, 1.84 mmol) was dissolved in CH2Cl2 (20 mL), cooled to 0° C., and trifluoroacetic acid (4 mL) was added. After 3 hours, the reaction mixture was poured into saturated aqueous NaHCO3 and extracted with CH2Cl2 (3×). The combined organic extracts were dried over Na2SO4, filtered and concentrated in vacuo, to yield the above-titled compound.

reactant | (S)-3-(tert-Butoxycarbonylamino)-1-[3′-(tert-butyldimethylsilyloxy) biphen-2-yl]-2-oxopyrrolidine | C(C)(C)(C)OC(=O)N[C@@H]1C(N(CC1)C1=CC=CC=C1C1=CC(=CC=C1)O[Si](C)(C)C(C)(C)C)=O | C27H38N2O4Si
reactant | trifluoroacetic acid | 4 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | (S)-3-Amino-1-[3′-(tert-butyldimethylsilyloxy)biphen-2-yl)-2-oxopyrrolidine | N[C@@H]1C(N(CC1)C1=CC=CC=C1C1=CC(=CC=C1)O[Si](C)(C)C(C)(C)C)=O | C22H30N2O2Si
